US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 40):
1.00 g of N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride and 1.45 g of 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea were dissolved in 30 ml of benzene, and the solution was heated under reflux for 4 hours. After the reaction, benzene was evaporated under reduced pressure. The resulting oily product was purified by column chromatography [silica gel; eluent: hexane/ethyl acetate (10/1)] to give 1.27 g of the captioned compound.

reactant | N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride | 1.00 g | ClCN(C(=O)Cl)C1=CC=C(C=C1)C | C9H9Cl2NO
reactant | 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 1.45 g | FC(C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1)(F)F | C11H10F6N2S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one | 1.27 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C)(F)F | C20H17F6N3OS
